US06353025B1
To a stirred solution of ethyl N-[2,6-dichloro-4-(2-hydroxyethyl)phenyl]aminoacetate (650 mg) and triphenylphosphine (700 mg) in dichloromethane (10ml) was added carbon tetrabromide (886 mg) under ice-cooling, and the mixture was stirred for 1 hour. Rough purification of the reaction mixture by flash column chromatography on silica gel (eluent: hexane/ethyl acetate=3/1) and further purification of the fraction by medium pressure liquid column chromatography on silica gel (eluent: hexane/dichloromethane=1/1) gave ethyl N-[4-(2-bromoethyl)-2,6-dichlorophenyl]-aminoacetate (708 mg).

reactant | ethyl N-[2,6-dichloro-4-(2-hydroxyethyl)phenyl]aminoacetate | 650 mg | ClC1=C(C(=CC(=C1)CCO)Cl)NCC(=O)OCC | C12H15Cl2NO3
reactant | triphenylphosphine | 700 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 886 mg | C(Br)(Br)(Br)Br | CBr4
solvent | dichloromethane | 10ml | ClCCl | CH2Cl2
product | ethyl N-[4-(2-bromoethyl)-2,6-dichlorophenyl]-aminoacetate | 708 mg | BrCCC1=CC(=C(C(=C1)Cl)NCC(=O)OCC)Cl | C12H14BrCl2NO2
